US08420655B2
5-{1-tert-Butyl-2-[4-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a mixture of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (11 mg, 0.043 mmol) and 4-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde (10 mg, 0.045 mmol) in DMF (5.0 mL) is added Oxone (27 mg, 0.044 mmol) in H2O (2.0 mL). The reaction mixture is stirred at room temperature for 1.5 hours and then quenched with saturated sodium thiosulfate aq. (25 mL). The quenched reaction mixture is extracted with EtOAc (25 mL×2) and the combined organic layers are washed with H2O (50 mL×2), dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 10% MeOH in CH2Cl2 as the eluent to afford the title compound (10 mg, 50%) as a white solid. LCMS (ESMS): m/z 460.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.043 mmol, 11 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 4-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde | 0.045 mmol, 10 mg | ClC1=CC(=C(C=O)C=C1)C1=NC(=NO1)C | C10H7ClN2O2
reactant | Oxone | 0.044 mmol, 27 mg | OOS(=O)[O-].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2.0 mL | O | H2O
product | 5-{1-tert-Butyl-2-[4-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 10 mg, 50% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=C(C=C2)Cl)C2=NC(=NO2)C | C24H22ClN7O
